US08633313B2
1-(2-(2-Fluorophenyl)-1,5-naphthyridin-3-yl)ethanol (550 mg, 2.04 mmol) and phthalimide (600 mg, 4.09 mmol) were dissolved in THF (20 mL) and the mixture was cooled to 0° C. To the cooled mixture was added PPh3 (1.07 g, 4.09 mmol) and the mixture was stirred for 5-10 min at 0° C. Then DIAD (800 mg, 4.09 mmol) was added dropwise to the above reaction mixture at 0° C., and the reaction mixture was slowly allowed to warm to rt and maintained at rt for 3 h. After completion of reaction, the reaction mixture was quenched with water and ethyl acetate. The organic layer was separated and the aqueous layer was back extracted with ethyl acetate. The organic layers were combined and dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 2-(1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)-1H-isoindole-1,3(2H)-dione as a white solid: 1H-NMR (CDCl3) δ: 1.8 (s, 3H), 5.0 (brs, 1H), 6.4 (s, 2H), 7.7-7.2 (m, 7H), 8.4 (d, 1H), 9.0-8.8 (d, 2H).

reactant | 1-(2-(2-Fluorophenyl)-1,5-naphthyridin-3-yl)ethanol | 2.04 mmol, 550 mg | FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)O | C16H13FN2O
reactant | phthalimide | 4.09 mmol, 600 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 4.09 mmol, 1.07 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.09 mmol, 800 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)-1H-isoindole-1,3(2H)-dione | FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)N1C(C2=CC=CC=C2C1=O)=O | C24H16FN3O2
